US09216182B2
a) 6-(4-hydroxypiperidin-1-yl)nicotinamide
To the solution of 6-chloronicotinamide (5.0 g, 32 mmol) in DIPEA (50 mL), piperidin-4-ol (3.2 mg, 32 mmol) was added and the mixture was stirred at 110° C. for 8 h. The reaction mixture was concentrated under reduced pressure to afford the crude product. The residue was further purified by silica gel chromatography (DCM: MeOH=20:1) to afford the title compound (5.3 g, 75%) as a yellowish solid. [LCMS RtB=1.39 min, [M+H]+=222.1].

reactant | 6-chloronicotinamide | 32 mmol, 5.0 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | piperidin-4-ol | 32 mmol, 3.2 mg | N1CCC(CC1)O | C5H11NO
solvent | DIPEA | 50 mL | CCN(C(C)C)C(C)C | C8H19N
product | 6-(4-hydroxypiperidin-1-yl)nicotinamide | 5.3 g, 75% | OC1CCN(CC1)C1=NC=C(C(=O)N)C=C1 | C11H15N3O2
